US06291507B1
Ethyl 4,5,6.7-tetrahydroindole-2-carboxylate
Ethyl indole-2-carboxylate (0.5 g) and platinum (IV) oxide (0.1 g) in acetic acid (20 ml) were stirred under an atmosphere of hydrogen for 16 hours at ambient temperature. The reaction was then filtered through a pad of celite and basified by addition of aqueous sodium hydroxide (2N). The resulting precipitate was filtered and dried in vacuo to give the product as a white solid (0.17 g, 33%), NMR d(CDCl3) 1.35 (3H, t), 1.80 (4H, m), 2.50 (2H, t), 2.60 (2H, t), 4.30 (2H, q), 6.65 (1H, d), 8.70 (1H, bs); M/z (+) 194 (MH+).

reactant | Ethyl indole-2-carboxylate | 0.5 g | N1C(=CC2=CC=CC=C12)C(=O)OCC | C11H11NO2
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
catalyst | platinum (IV) oxide | 0.1 g | [Pt](=O)=O
product | Ethyl 4,5,6.7-tetrahydroindole-2-carboxylate | 0.17 g, 33% | N1C(=CC=2CCCCC12)C(=O)OCC | C11H15NO2
